US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (429 mg) was dissolved in methanol (22 ml), aqueous lithium hydroxide monohydrate (148 mg) solution (11 ml) and tetrahydrofuran (11 ml) were added, and the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water (150 ml), the solution was washed with diethyl ether, acidified with 1N hydrochloric acid, and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Isoproryl ether was added to the residue for trituration,collected by filtration, to thereby obtain 237 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 429 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C=2OC=CC2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C34H32N4O7
reactant | lithium hydroxide monohydrate | 148 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | methanol | 22 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(furan-2-ylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 237 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C=2OC=CC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C32H28N4O7
